US08304443B2
6-(Tert-butyldiphenylsilyloxy)-3-chloroindazole
Under nitrogen atmosphere, 6-tert-butyldiphenylsilyloxyindazole (29.246 g) which can be prepared according to the method described in Reference example 36, etc. was dissolved in dehydrated THF (200 mL). After cooling to 0° C., potassium tert-butoxide (18.2190 g; manufactured by Kanto Chemical Co., Inc.) and N-chlorosuccinimide (17.0497 g; manufactured by Kanto Chemical Co., Inc.) were added and then stirred for four hours while increasing the temperature from 0° C. to room temperature. The reaction solution was added to a saturated aqueous solution of ammonium chloride and extraction was carried out twice with ethyl acetate. The organic layer was washed once with brine and dried over magnesium sulfate. After the solvent was evaporated under reduced pressure, the resulting residue was purified by column chromatography (“COLUMN-A”; n-hexane:ethyl acetate=88:12→67:33) to obtain the title compound (18.592 g).

reactant | 6-tert-butyldiphenylsilyloxyindazole | 29.246 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=NNC2=C1 | C23H24N2OSi
reactant | potassium tert-butoxide | 18.2190 g | CC(C)([O-])C.[K+]
reactant | N-chlorosuccinimide | 17.0497 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(Tert-butyldiphenylsilyloxy)-3-chloroindazole | 18.592 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(=NNC2=C1)Cl | C23H23ClN2OSi
